US04877881
A solution of 1-(4'-t-butyldimethylsilyloxy-3'-methoxyphenyl)-1-butene-3-one (12.8 g, 41.8 mmol) in THF (50 mL) is cooled to -78° C. under an argon atmosphere. Lithium di-isopropyl amide (83.5 mmol, in 50 mL THF) is slowly added to the reaction mixture. The reaction is stirred at -78° C. for 30 minutes. Acetyl chloride (16.4 g, 209 mmol) dissolved in THF (20 mL) is then added to the reaction over a 30 minute period. The reaction is quenched with aqueous HCl. The layers are separated, and the aqueous layer is washed with ethyl acetate. The combined organic layers are washed with saturated aqueous sodium bicarbonate, dried over MgSO4, and evaporated to give a red oil. Flash chromatography (ethyl ether/hexane 2:8) afford 5.0 g (34%) of 1-(4'-t-butyldimethylsilyloxy-3'-methoxyphenyl)-1-hexene-3,5-dione, mp=81°-85° C.

reactant | 1-(4'-t-butyldimethylsilyloxy-3'-methoxyphenyl)-1-butene-3-one | 41.8 mmol, 12.8 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C=CC(C)=O)OC | C17H26O3Si
reactant | Lithium di-isopropyl amide | 83.5 mmol, 50 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | Acetyl chloride | 209 mmol, 16.4 g | C(C)(=O)Cl | C2H3ClO
reactant | ethyl ether hexane | C(C)OCC.CCCCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4'-t-butyldimethylsilyloxy-3'-methoxyphenyl)-1-hexene-3,5-dione | 5.0 g, 34% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C=CC(CC(C)=O)=O)OC | C19H28O4Si
